US06756343B1
Synthesis of 4-(2-propyl)oxy-5,8-dimethyl-6-(3-phenylthio-1-oxocyclohexan-2-yl)carbonylthiochroman-1,1-dioxide [Compound No. B-68]
The target compound was prepared in the same manner as described in Example II-2 except that 4-(2-propyl)oxy-5,8-dimethyl-6-(3-chloro-1-oxocyclohexan-2-yl)carbonylthiochroman-1,1-dioxide and benzenethiol were used instead of 4-chloro-5-(3-chloro-1-oxocyclohexan-2-yl)carbonyl-2,3-dihydrobenzothiophene-1,1-dioxide and ethanethiol, respectively.

reactant | 4-(2-propyl)oxy-5,8-dimethyl-6-(3-chloro-1-oxocyclohexan-2-yl)carbonylthiochroman-1,1-dioxide | CC(C)OC1CCS(C2=C(C=C(C(=C12)C)C(=O)C1C(CCCC1Cl)=O)C)(=O)=O | C21H27ClO5S
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
reactant | 4-chloro-5-(3-chloro-1-oxocyclohexan-2-yl)carbonyl-2,3-dihydrobenzothiophene-1,1-dioxide | ClC1=C(C=CC2=C1CCS2(=O)=O)C(=O)C2C(CCCC2Cl)=O | C15H14Cl2O4S
reactant | ethanethiol | C(C)S | C2H6S
product | 4-(2-propyl)oxy-5,8-dimethyl-6-(3-phenylthio-1-oxocyclohexan-2-yl)carbonylthiochroman-1,1-dioxide | CC(C)OC1CCS(C2=C(C=C(C(=C12)C)C(=O)C1C(CCCC1SC1=CC=CC=C1)=O)C)(=O)=O | C27H32O5S2
